US06492360B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-pyridin-4-ylethynyl-phthalazine (Compound 84)
Operating analogously to what described in example 15 starting from 1-chloro-6-methoxy-5-pyridin-4-ylethynyl-phthalazine (1.38 g, 4.66 mmoles), prepared as described in example 142, 3,5-dichloro-4-methylpyridine (1.887 mg, 11.65 mmoles), DMF (20 ml), NaH (466 mg, 11.65 mmoles), 793 mg of the title compound were obtained.

reactant | 1-chloro-6-methoxy-5-pyridin-4-ylethynyl-phthalazine | 4.66 mmoles, 1.38 g | ClC1=NN=CC2=C(C(=CC=C12)OC)C#CC1=CC=NC=C1 | C16H10ClN3O
reactant | 3,5-dichloro-4-methylpyridine | 11.65 mmoles, 1.887 mg | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | NaH | 11.65 mmoles, 466 mg | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-pyridin-4-ylethynyl-phthalazine | 793 mg | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)C#CC1=CC=NC=C1)Cl | C22H14Cl2N4O
